US03961055
2-Methoxy-6-methylthiophenothiazine (m.p. 152°-154°C.; 20.1 g.) is prepared by methylation of 2-hydroxy-6-methylthiophenothiazine (37.8 g.) by means of dimethyl sulphate (22.2 g.) in the presence of sodium carbonate (30.1 g.) in acetone.

reactant | 2-hydroxy-6-methylthiophenothiazine | 37.8 g | OC1=CC=2NC3=CC=CC(=C3SC2C=C1)SC | C13H11NOS2
reactant | dimethyl sulphate | 22.2 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium carbonate | 30.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-Methoxy-6-methylthiophenothiazine | 20.1 g | COC1=CC=2NC3=CC=CC(=C3SC2C=C1)SC | C14H13NOS2
